US06747023B1
4-(tert-Butoxycarbonyl)-2,2-dimethyl-1-[4-(pyridin-4-yl)benzoyl]piperazine
To a solution of 1-(tert-butoxycarbonyl)-3,3-dimethylpiperazine (173 mg) in a mixture of N,N-dimethylformamide (2.5 ml) and triethylamine (1.0 ml) was added (4-nirophenyl) 4-(4-pyridyl)benzoate (330 mg). The resulting mixture was stirred at 60° C. for 5 days. The reaction mixture was diluted with methylene chloride and then added with a saturated aqueous solution of sodium chloride to form two layers. The organic layer obtained by separation was washed with a saturated aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crudely purified product was purified by chromatography on a silica gel column (methylene chloride:methanol=50:1), whereby the title compound (199 mg) was obtained as colorless amorphous.

reactant | 1-(tert-butoxycarbonyl)-3,3-dimethylpiperazine | 173 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)(C)C | C11H22N2O2
reactant | 4-(4-pyridyl)benzoate | 330 mg | N1=CC=C(C=C1)C1=CC=C(C(=O)[O-])C=C1
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(tert-Butoxycarbonyl)-2,2-dimethyl-1-[4-(pyridin-4-yl)benzoyl]piperazine | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O)(C)C | C23H29N3O3
